Name:  ___               Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
Plavix / Atorvastatin
 
Attending: ___.
 
Chief Complaint:
Crampy abdominal pain, found to have a SBO and Crohn's Flare
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
___ yo female with history of HTN, HL, CAD s/p PCI with stents ___ 
years ago and Crohn's Disease of the terminal ileum diagnosed in 
___ who presents with 8 hrs of crampy, diffuse abdominal pain 
associated with nausea, but no emesis. The patient also reports 
chills, but no documented fevers. The pain began abruptly around 
8PM on the night of admission. Seh described the pain as 8 out 
of 10 that was bandlike around the mid abdomen. The patient says 
that her usual Crohn's flare pain is sharp in the RLQ. The 
patient notes that the pain was slightly improved by using a 
hotpack, and was made slightly worse with movement. The patient 
had a BM around 2AM that she said was formed, nonbloody, 
non-mucous. The patient had associated nausea with this pain, 
but no emesis. She also described anorexia. The patient took a 
dose of oral Cipro at home, but when the pain did not improve, 
she came to the ED at 4AM. 
.
In the ED, initial vs were: 97.8 76 144/75 16 100%. The patient 
was given morphine and zofran. She underwent a CT abd/pelvis 
that showed focal colitis of the terminal ileum consistent with 
her Crohns and a transition point of SBO in the lower pelvis. 
The patient did not have an NGT placed.
.
On the floor, the patient describes her pain as still a 7 out of 
10 in the same distribution. She is still slightly nauseous, but 
this improved with Zofran. On ROS, she describes increased 
fatigue x 2 days and chronic R facial neuropathic pain that has 
been present for many years. Otherwise, the patient looks 
comfortable.
 
Past Medical History:
-PERCUTANEOUS CORONARY INTERVENTIONS: Bare metal stent in LAD in 
___ when she had a catheterization that showed 95% mid-LAD 
stenosis  
Hypertension  
Hyperlipidemia  
Crohn's disease  
Chronic facial neuralgia s/p stereotactic ablation of the 
trigeminal ganglion  
Hypothyroidism  
Osteoporosis  

PSH:  
carpal tunnel release  
bilateral breast augmentation in ___  
radiofrequency ablation  
surgical treatment for left elbow fracture  
 
Social History:
___
Family History:
Father died of coronary artery disease at age ___. Her mother 
died of vascular dementia and pneumonia. One of her first 
cousins has a genetic syndrome causing hypercholesterolemia. No 
family history of arrhythmia, cardiomyopathies, or sudden 
cardiac death; otherwise non-contributory.  

 
Physical Exam:
ON ADMISSION:
Vitals: T: 98.6 BP: 130/66 P: 75 R: 18 O2: 99% RA 
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, dry MM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Crackles at bases R>L, no wheezes, no dullness to 
percussion 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen: soft, TTP mostly in LLQ with some refered pain to 
umbilical area, slightly hypoactive BS, no rebound/guarding
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema   
Neuro: nonfocal

ON DISCHARGE:
Vitals: 98.3 (Tmax 98.5) 108/50 61 16 95%RA
General: Alert, oriented, no acute distress  
HEENT: Sclera anicteric, dry MM, oropharynx clear  
Neck: supple, JVP not elevated, no LAD  
Lungs: Clear to auscultation bilaterally, no wheezes, no 
dullness to percussion 
CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, 
gallops  
Abdomen:Mildly tender to palpation on suprapubic area, no 
rebound or guarding.
Ext: Warm, well perfused, 2+ pulses, no clubbing, cyanosis or 
edema   
Neuro: nonfocal

 
Pertinent Results:
Admission Labs

___ 05:50AM BLOOD WBC-9.6# RBC-4.83 Hgb-14.9 Hct-43.6 
MCV-90 MCH-30.7 MCHC-34.0 RDW-12.1 Plt ___
___ 05:50AM BLOOD Neuts-87.5* Lymphs-7.5* Monos-3.0 Eos-1.6 
Baso-0.4
___ 05:50AM BLOOD Glucose-149* UreaN-18 Creat-0.7 Na-134 
K-8.4* Cl-98 HCO3-30 AnGap-14
___ 05:50AM BLOOD ALT-28 AST-63* LD(LDH)-795* AlkPhos-82
___ 08:15AM BLOOD Albumin-3.2* Calcium-8.0* Phos-2.9 Mg-2.0 
Iron-101
___ 08:15AM BLOOD calTIBC-229* Ferritn-84 TRF-176*

DISCHARGE LABS

___ 07:15AM BLOOD WBC-3.9* RBC-3.82* Hgb-11.8* Hct-35.5* 
MCV-93 MCH-30.8 MCHC-33.2 RDW-11.9 Plt ___
___ 07:15AM BLOOD Glucose-99 UreaN-5* Creat-0.6 Na-144 
K-3.5 Cl-104 HCO3-34* AnGap-10
___ 08:15AM BLOOD ESR-14
___ 06:50AM BLOOD CRP-11.9*
___ 08:15AM BLOOD CRP-22.8*

CT abd:
IMPRESSION: 
  
1. Distal ileitis, in a pattern consistent with active Crohn's 
disease, 
leading to small bowel obstruction with transition point in the 
low pelvis.  Although narrowing and acute inflammation are 
present, the possibility of a more chronic underlying stricture 
with acute on chronic inflammatory process is not excluded. No 
evidence of perforation, abscess formation, or development of 
fistulous tract. 
  
2. No evidence of acute appendicitis. 

 
Brief Hospital Course:
Ms ___ is a ___ yo F with a h/o Crohns ileitis c/b 
infrequent flares who presents after sudden onset of crampy abd 
pain, nausea, and anorexia and found to have active terminal 
ileitis and SBO.

1. SBO/ Ileitis
The patient presented to the ED after 8 hours of crampy, diffuse 
abdominal pain that she described as different than her typical 
Crohn's flare. In the ED, the patient had a CT scan that showed 
active terminal ileitis consistent with Crohns, but also a high 
grade SBO with a transition point at the level of the pelvis. On 
the floor, the patient was made NPO, she was given IVFs, IV 
morphine, and IV zofran. The patient was not having emesis, so 
an NGT was not necessary for gastric decompression. GI was 
consulted and they recommended IV cipro and flagyl, but they did 
not think that steroids were necessary because the patient's 
inflammatory markers were not that elevated. On HD#1 she passed 
flatus and had 2 episodes of non-bloody diarrhea and noted 
feeling hungry. Her abdominal exam showed improvement in her 
tenderness hence she was advanced to a clear liquid diet and 
restarted on her home PO pain medication. She endorsed mild 
cramping and nausea with the clear liquid diet and was 
encouraged to advance slowly. On HD#2 she was transitioned to a 
regular diet, PO Cipro Flagyl and per GI recommendation will go 
home with a ___. Neuropathic Facial pain
This is a chronic problem for Ms. ___ and was exacerbated 
by the fact that she was kept strictly NPO on hospital day 0. A 
pain consult was called and an attempt to manage her pain on IV 
morphine was unsuccessful. On hospital day #2 she was started on 
her PO medications of cymbalta, sertraline, carbamezapine, and 
methadone and her pain was better controlled.

3. Anemia
She was found to have a HCT of 34 on her initial labs, Iron 
studies was consistent with anemia of chronic inflammation and 
no intervention was done.

4. Hypertension
Her Exforge was held throughout the hospitalization and she 
remained normotensive. 
She was discharged on no anti-hypertensives and advised to 
follow up with her PCP regarding management.

Transition of care issues: 
Re-evaluate the need for anti-hypertensive
The patient had follow-up with both her PCP and with her 
gastroenterologist, Dr. ___
 
___ on Admission:
Calcium two tablets BID
Zoloft 200mg Qday
Carbamazepine 175mg suppository Q4hrs
Gabapentin 500mg split over the day
Cymbalta 40mg Qday
Methadone 10mg TID
Exforge ___ Qday
Aspirin 81mg Qday
Pentassa 1500mg QAM, 1000mg QPM, 1500mg Qevening
Colace 100mg 6 caps by mouth QHS
Levothyroxine 100mcg Qday
Iron 325mg Qday
Vitamin D 50,000 u Qmonth
MVI
Keflex ___ Qday
 
Discharge Medications:
1. carbamazepine (bulk)     Powder Sig: One (1) suppository 
Miscellaneous Q4H (every 4 hours).  
2. sertraline 100 mg Tablet Sig: Two (2) Tablet PO once a day.  
3. Calcium Antacid  Oral
4. gabapentin 100 mg Capsule Sig: One (1) Capsule PO TID (3 
times a day).  
5. gabapentin 100 mg Capsule Sig: Two (2) Capsule PO HS (at 
bedtime).  
6. duloxetine 20 mg Capsule, Delayed Release(E.C.) Sig: Two (2) 
Capsule, Delayed Release(E.C.) PO DAILY (Daily).  
7. methadone 10 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day).  
8. levothyroxine 100 mcg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
9. aspirin 81 mg Tablet, Chewable Sig: One (1) Tablet, Chewable 
PO DAILY (Daily).  
10. ciprofloxacin 500 mg Tablet Sig: One (1) Tablet PO twice a 
day for 6 days.
Disp:*12 Tablet(s)* Refills:*0*
11. metronidazole 500 mg Tablet Sig: One (1) Tablet PO three 
times a day for 6 days.
Disp:*18 Tablet(s)* Refills:*0*
12. mesalamine 500 mg Capsule, Extended Release Sig: Three (3) 
Capsule, Extended Release PO twice a day: Once in the morning 
and once in the evening.  
13. mesalamine 500 mg Capsule, Extended Release Sig: Two (2) 
Capsule, Extended Release PO Qday at 4PM.  
14. Colace 100 mg Capsule Sig: ___ Capsules PO at bedtime.  
15. Vitamin D  Oral
16. multivitamin  Oral

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Small Bowel Obstruction/ Terminal Ileitis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the hospital with abdominal pain that was 
determined to be a result of an obstruction of the small bowel 
likely secondary to your Crohn's Disease. While you were here, 
we initially kept you without food, gave you fluids, and IV 
medications. As your pain improved and you were passing gas, we 
were able to successfully restart your diet and your home 
medications. Your pain was very much improved on discharge. I 
just want to reiterate that you may not feel 100% for a few 
days. Please take it slowly with your diet and also with your 
activity.

You will continue the cipro and flagyl for 10 days total. After 
that finishes, you can start back on your Keflex. We also have 
held your ExForge while here and your BP have been normal. You 
can check your BP at home and restart the med if it is high, or 
you can wait and discuss with your doctor. I would hold your 
Iron pill until you are passing regular stools, as this can make 
you more constipated.

If you develop worsening abdominal pain, nausea, or vomiting, 
please call Dr. ___.

The following medication was STARTED:
Cipro 500mg by mouth every 12 hours for 6 more days (last dose 
on ___
Flagyl 500mg by mouth every 8 hours for 6 more days (last dose 
on ___
.
The following medications were HELD:
Keflex - please restart (after you finish your cipro flagyl) on 
___
ExForge - please restart if you measure 2 or more blood 
pressures over 130/80 at home
 
Followup Instructions:
___